US09029371B2
A mixture of 4-benzyl-2-(4-bromo-phenyl)-morpholine (1.5 g, 4.6 mmol), 3-(trifluoromethyl)phenol (0.83 mL, 6.8 mmol), copper(I) iodide (438 mg, 2.3 mmol), 2,2,6,6-tetramethyl-3,5-heptanedione (0.48 mL, 2.3 mmol), and cesium carbonate (2.96 g, 9.1 mmol), in toluene (20 mL) was heated under reflux for 3 days. After cooling to room temperature, the mixture was partitioned between EtOAc and water. The layers were separated. The organic layer was dried (Na2SO4), filtered and concentrated in vacuo. The residue was purified by column chromatography (EtOAc:heptanes 5:95) to afford 4-benzyl-2-[4-(3-trifluoromethyl-phenoxy)-phenyl]-morpholine (0.9 g), which was used as such in the next step.

reactant | 4-benzyl-2-(4-bromo-phenyl)-morpholine | 4.6 mmol, 1.5 g | C(C1=CC=CC=C1)N1CC(OCC1)C1=CC=C(C=C1)Br | C17H18BrNO
reactant | 3-(trifluoromethyl)phenol | 6.8 mmol, 0.83 mL | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | 2,2,6,6-tetramethyl-3,5-heptanedione | 2.3 mmol, 0.48 mL | CC(C)(C(CC(C(C)(C)C)=O)=O)C | C11H20O2
reactant | cesium carbonate | 9.1 mmol, 2.96 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | copper(I) iodide | 2.3 mmol, 438 mg | [Cu]I
product | 4-benzyl-2-[4-(3-trifluoromethyl-phenoxy)-phenyl]-morpholine | 0.9 g | C(C1=CC=CC=C1)N1CC(OCC1)C1=CC=C(C=C1)OC1=CC(=CC=C1)C(F)(F)F | C24H22F3NO2
